data/mechanisms/records/IMS8-EQ8.3a.json
{"mechanism_id": "IMS8-EQ8.3a", "species": [{"species_id": "butyl_methyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][O+:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butyl_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methoxy_radical", "mapped_smiles": "[O:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_methyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["butyl_cation", "methoxy_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 141, "equation": "8.3", "section": "8.2 Product stability -- Charge competition in OE(+.) decompositions: Stevenson's Rule"}, "confidence": 0.9, "curator_note": "Eq 8.3 row 1, arrow labeled 'i' (inductive). n-butyl methyl ether molecular ion; the C-O bond cleaves and the two incipient fragments compete for the charge. THIS branch: charge migrates to the butyl fragment giving C4H9+ (25%) with loss of the neutral methoxy radical .OCH3. Printed IE(C4H9.)=8.0 eV < IE(.OCH3)=8.6 eV, so per Stevenson's rule the lower-IE butyl fragment wins the charge. Book draws 0 arcs (summary equation, no curved arrows on the page); the single heterolytic C-O cleavage arrow (both sigma electrons of bond 4-5 onto O5) is reconstructed for electron balance. LOCALIZATION: the page prints (+.) over the C-O region (mobile-charge notation) -- a carbon there would be over-valent, so the ionization is localized at the ether oxygen (lowest-IE n orbital), giving the arrows a valid origin."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+.", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 88.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C4H9", "species_id": "butyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 57.0699, "relative_intensity": 0.25, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
